US07485636B2
B. Preparation of 2-amino-benzoic acid N′-(2-fluoro-phenyl)-hydrazide
A stirred suspension of 845 g (5.03 mole) of 97% (2-fluoro-phenyl)-hydrazine, hydrochloride in 7.6 L of ethanol at 21-22° C. was added in a stream 563 g (5.57 mole) of triethylamine over a 20 minute period. A whitish gas formed initially. The resulting dark mixture was stirred at 21° C. for 20 minutes and then 854 g (5.03 mole) of 96% 1H-benzo[d][1,3]oxazine-2,4-dione was added. The resulting mixture was heated up to reflux (78° C.) over the next 1 hour. During this period, vigorous gas evolution was noted. Reflux was maintained for 2 hours and then the suspension was stirred at room temperature for 16 hours. The solid was collected by filtration, rinsed once with 150 mL of ethanol, then once with 150 mL of ethanol: ethyl acetate (1:1), and pressed dry under suction. Further drying in vacuo at 35° C. for 7 hours provided 498 g (40%) of product. A second crop of 51 g (4%) of material was obtained from the mother liquor.

reactant | (2-fluoro-phenyl)-hydrazine, hydrochloride | 5.03 mole, 845 g | Cl.FC1=C(C=CC=C1)NN
reactant | triethylamine | 5.57 mole, 563 g | C(C)N(CC)CC | C6H15N
reactant | 1H-benzo[d][1,3]oxazine-2,4-dione | 5.03 mole, 854 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
solvent | ethanol | 7.6 L | C(C)O | C2H6O
product | 2-amino-benzoic acid N′-(2-fluoro-phenyl)-hydrazide | 498 g, 40% | FC1=C(C=CC=C1)NNC(C1=C(C=CC=C1)N)=O | C13H12FN3O
